US04847311
In the next step, a 1 1 glass reaction vessel was charged with 100 grams (0.23 mol) of crude 4,4'-bis(3-nitrophenoxy)biphenyl, 10 grams of active carbon, 1 grams of ferric chloride hexahydrate and 500 ml of 2-methoxyethanol. The mixture was stirred for 30 minutes under reflux and then added dropwise with 46 grams (0.92 mol) of hydrazine hydrate during 3 hours at 70°-80° C. The reaction was terminated by stirring for 5 hours at 70°-80° C. after ending the dropwise addition. The reaction mixture was cooled, filtered to remove the catalyst and poured into 500 ml of water. The separated crystals were filtered, added with 48 grams of 35% hydrochloric acid and 540 ml of 50% isopropyl alcohol and warmed. The solution thus obtained was allowed to cool. The separated 4,4'-bis(3-aminophenoxy)biphenyl hydrochloride was filtered, added with 540 ml of 50% isopropyl alcohol and warmed. The solution thus obtained was added with 5 grams of active carbon, filtered and neutralized with aqueous ammonia. The separated crystals were filtered, washed with water and dried to give 72.0 grams (85% yield) of 4,4'-bis(3-aminophenoxy)biphenyl as colorless crystals having a melting point of 144°-146° C. The purity was 99.6% according to high-speed liquid chromatography.

reactant | 4,4'-bis(3-nitrophenoxy)biphenyl | 0.23 mol, 100 grams | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)C2=CC=C(C=C2)OC2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C24H16N2O6
reactant | hydrazine hydrate | 0.92 mol, 46 grams | O.NN
solvent | 2-methoxyethanol | 500 ml | COCCO | C3H8O2
product | 4,4'-bis(3-aminophenoxy)biphenyl | 72.0 grams, 85% yield | NC=1C=C(OC2=CC=C(C=C2)C2=CC=C(C=C2)OC2=CC(=CC=C2)N)C=CC1 | C24H20N2O2
